US08008481B2
A solution of 7-benzo[b]thiophen-2-yl-5-bromo-1H-indazole (Preparation #26, 4.5 g, 13.7 mmol) in N,N-dimethylformamide (100 mL) was degassed and purged with carbon monoxide. Triethylamine (4.1 g, 41 mmol), methanol (13.1 g, 410 mmol) and dichloro[bis(triphenylphosphine)]palladium (II) (1.45 g, 2.05 mmol) were added and the mixture was heated to about 90° C. for about 15 hours. The mixture was cooled and the solvent was removed under reduced pressure. The residue was triturated with ethyl acetate (75 mL) and water (35 mL) then further purified by flash chromatography over silica gel using dichloromethane/ethyl acetate (95:5) as the eluent to give methyl-7-benzo[b]thiophen-2-yl-1H-indazole-5-methanoate (3.37 g, 80%).

reactant | 7-benzo[b]thiophen-2-yl-5-bromo-1H-indazole | 13.7 mmol, 4.5 g | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)Br)C=CC=C2 | C15H9BrN2S
reactant | Triethylamine | 41 mmol, 4.1 g | C(C)N(CC)CC | C6H15N
reactant | methanol | 410 mmol, 13.1 g | CO | CH4O
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | methyl-7-benzo[b]thiophen-2-yl-1H-indazole-5-methanoate | 3.37 g, 80% | COC(=O)C=1C=C2C=NNC2=C(C1)C1=CC2=C(S1)C=CC=C2 | C17H12N2O2S
